US09388189B2
(S)-4-Hydroxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide
(S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide (57 mg, 0.05 mmol) was treated with boron tribromide (1M in dichloromethane, 536 μL, 0.54 mmol) in dichloromethane (1.15 mL) and then with a solution of ammonia (7N in methanol, 1.15 ml, 6.05 mmol) according to the method described in Example 27. The residue was purified using SP1 ® Purification System (0% to 6% dichloromethane-2-propanol) to obtain 25 mg (72% yield) of the title compound.

reactant | (S)-4-Methoxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide | 0.05 mmol, 57 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C40H44N8O5SSi
reactant | boron tribromide | 0.54 mmol, 1M, 536 μL | B(Br)(Br)Br | BBr3
reactant | ammonia | 6.05 mmol, 7N, 1.15 ml | N | H3N
solvent | dichloromethane | 1.15 mL | ClCCl | CH2Cl2
product | (S)-4-Hydroxy-N-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)benzenesulfonamide | 25 mg, 72% yield | OC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C33H28N8O4S
